US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-[4-(trifluoromethyl)phenoxy]piperidine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 4-[4-(trifluoromethyl)phenoxy]piperidine (16.9 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (11.6 mg). Calcd for C23H21F3N2O3: 430.1504, found 430.1510.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 4-[4-(trifluoromethyl)phenoxy]piperidine | 0.060 mmol, 16.9 mg | FC(C1=CC=C(OC2CCNCC2)C=C1)(F)F | C12H14F3NO
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-[4-(trifluoromethyl)phenoxy]piperidine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F | C23H21F3N2O3
